US07666848B2
f) (4,5-Diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3yl) acetate
380 mg of (3-hydroxy-5-isopropyl-thiophen-2-yl)-(4-methoxy-phenyl)-methanone, 848 mg of 4,5-diacetoxy-6-acetoxymethyl-2-bromo-tetrahydro-pyran-3-yl acetate, 1.43 g of potassium carbonate and 71.1 mg of benzyltributylammonium chloride were dissolved in 20 ml of dichloromethane, and 1.20 ml of water were added. The reaction mixture was stirred at 22° C. for 40 h. 50 ml of water were added to the reaction mixture, which was extracted twice with 50 ml of dichloromethane each time. The combined organic phases were washed with 50 ml of saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (SiO2, ethyl acetate/n-heptane=1:1).

reactant | (3-hydroxy-5-isopropyl-thiophen-2-yl)-(4-methoxy-phenyl)-methanone | 380 mg | OC1=C(SC(=C1)C(C)C)C(=O)C1=CC=C(C=C1)OC | C15H16O3S
reactant | 4,5-diacetoxy-6-acetoxymethyl-2-bromo-tetrahydro-pyran-3-yl acetate | 848 mg | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | potassium carbonate | 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.20 ml | O | H2O
reactant | water | 50 ml | O | H2O
catalyst | benzyltributylammonium chloride | 71.1 mg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (4,5-Diacetoxy-6-acetoxymethyl-2-[5-isopropyl-2-(4-methoxy-benzoyl)-thiophen-3-yloxy]-tetrahydro-pyran-3yl) acetate | C(C)(=O)OC1C(OC(C(C1OC(C)=O)OC(C)=O)COC(C)=O)OC1=C(SC(=C1)C(C)C)C(C1=CC=C(C=C1)OC)=O | C29H34O12S
